US04465844
L-Alanyl-2-(2,5-dioxopyrrolidin-3-yl)glycine hydrobromide
To 5.3 g of benzyloxycarbonyl-L-alanyl-2-(2,5-dioxopyrrolidin-3-yl)glycine benzhydryl ester was added 10 ml of a 30% solution of hydrogen bromide in acetic acid and the mixture was stirred at room temperature for one hour. To the reaction mixture was added ethyl ether and the resulting precipitate was collected by filtration. Yield 3.2 g.

reactant | benzyloxycarbonyl-L-alanyl-2-(2,5-dioxopyrrolidin-3-yl)glycine benzhydryl ester | 5.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(C(NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)C1C(NC(C1)=O)=O)=O | C30H29N3O7
reactant | hydrogen bromide | Br | BrH
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-Alanyl-2-(2,5-dioxopyrrolidin-3-yl)glycine hydrobromide | Br.N[C@@H](C)C(=O)NC(C(=O)O)C1C(NC(C1)=O)=O | InChI=1S/C9H13N3O5.BrH/c1-3(10)7(14)12-6(9(16)17)4-2-5(13)11-8(4)15;/h3-4,6H,2,10H2,1H3,(H,12,14)(H,16,17)(H,11,13,15);1H/t3-,4?,6?;/m0./s1
